US06413657B1
A mixture of 9.2 g (38 mmol) of 9H-tribenz[b,d,f]azepine (synthesized in accordance with J. Org. Chem., vol. 56, p. 3906 (1991)), 44.8 g (190 mmol) of 1,4-dibromobenzene, 5.6 g (100 mmol) of potassium hydroxide, 1.6 g (25 mmol) of copper powder, and 50 ml of decalin was heated at an external temperature of 200° C. for 36 hours in a nitrogen stream while stirring. The reaction mixture was worked up in the same manner as in Example 1, and the resulting crude product was purified by silica gel column chromatography to give 3.8 g (25%) of 9-(4-bromophenyl)-9H-tribenz[b,d,f]azepine.

reactant | 9H-tribenz[b,d,f]azepine | 38 mmol, 9.2 g | C1=CC=CC=2C3=C(NC4=C(C21)C=CC=C4)C=CC=C3 | C18H13N
reactant | 1,4-dibromobenzene | 190 mmol, 44.8 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | potassium hydroxide | 100 mmol, 5.6 g | [OH-].[K+]
catalyst | copper | 25 mmol, 1.6 g | [Cu] | Cu
solvent | decalin | 50 ml | C1CCCC2CCCCC12 | C10H18
product | 9-(4-bromophenyl)-9H-tribenz[b,d,f]azepine | 3.8 g, 25% | BrC1=CC=C(C=C1)N1C2=C(C3=C(C4=C1C=CC=C4)C=CC=C3)C=CC=C2 | C24H16BrN
